US05665747
5-(2-Methoxyethyl)-4-methyl-2-trifluoroacetylthiazole
From 5-(2-methoxyethyl)-4-methylthiazole and ethyl trifluoroacetate, following the procedure of Preparation 1.

reactant | 5-(2-methoxyethyl)-4-methylthiazole | COCCC1=C(N=CS1)C | C7H11NOS
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
product | 5-(2-Methoxyethyl)-4-methyl-2-trifluoroacetylthiazole | COCCC1=C(N=C(S1)C(C(F)(F)F)=O)C | C9H10F3NO2S
